US05167695
2-Methyl-3-ethyl-7-chloro-3H-imidazo[4,5-h]quinoline
14 g (64 mmol) of 8-amino-3-chloro-7-ethylaminoquinoline and 42 g (0.26 mol) of triethyl orthoacetate are stirred at 100° C. for 1 hour. The mixture is allowed to cool to room temperature, excess orthoester is evaporated off, and the residue is recrystallized from ethyl acetate.

reactant | 8-amino-3-chloro-7-ethylaminoquinoline | 64 mmol, 14 g | NC=1C(=CC=C2C=C(C=NC12)Cl)NCC | C11H12ClN3
reactant | triethyl orthoacetate | 0.26 mol, 42 g | C(C)(OCC)(OCC)OCC | C8H18O3
product | 2-Methyl-3-ethyl-7-chloro-3H-imidazo[4,5-h]quinoline | CC1=NC2=C(C=CC=3C=C(C=NC23)Cl)N1CC | C13H12ClN3
